US07691861B2
Preparation of (2-Chloro-6-hydroxy-naphthalen-1-yl)-acetic acid ethyl ester
(2-Chloro-6-methoxy-naphthalen-1-yl)acetic acid ethyl ester (5.43 g, 19.48 mmol) and tetrabutylammonium iodide (9.35 g, 25.32 mmol) are dissolved under an atmosphere of argon in CH2Cl2 (110 ml). The reaction mixture is cooled to −78° C. and a 1 M solution of BBr3 in CH2Cl2 (48.7 ml, 48.7 mmol) is added during 15 minutes. After stirring at −78° C. for 10 minutes and at RT for 10 minutes, TLC analysis indicates complete consumption of starting material. The reaction mixture is poured on conc. aqueous NaHCO3 solution, and the mixture is vigorously stirred for 20 minutes at RT. After extraction with CH2Cl2, the organic layer is washed with brine and dried over Na2SO4. Purification by FCC (hexane/EtOAc 2:1) yields the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.19 (t, J=9 Hz, 3H), 4.12 (q, J=9 Hz, 2H), 4.18 (s, 2H), 5.35-5.60 (br, 1H), 6.93 (s, 1H), 6.99 (d, J=10 Hz, 1H), 7.33 (d, J=10 Hz, 1H), 7.42 (d, J=10 Hz, 1H), 7.70 (d, J=10 Hz, 1H). ES+-MS: 265.2, 266.8 [M+H]+.

reactant | (2-Chloro-6-methoxy-naphthalen-1-yl)acetic acid ethyl ester | 19.48 mmol, 5.43 g | C(C)OC(CC1=C(C=CC2=CC(=CC=C12)OC)Cl)=O | C15H15ClO3
reactant | BBr3 | B(Br)(Br)Br | BBr3
catalyst | tetrabutylammonium iodide | 25.32 mmol, 9.35 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | CH2Cl2 | 110 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 48.7 mmol, 48.7 ml | C(Cl)Cl | CH2Cl2
product | (2-Chloro-6-hydroxy-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC2=CC(=CC=C12)O)Cl)=O | C14H13ClO3
